US05717100
1-(3-Methoxyphenyl)-2-pyridin-4-ylethane-1,2-diol
To a stirring solution of diisopropylamine (4.5 g, 5.8 mL, 44 mmol) in tetrahydrofuran (170 mL) at -78° C. was added n-butyllithium (17.7 mL of a 2.5M solution in tetrahydrofuran) dropwise. After ten minutes, a solution of 4-pyridylcarbinol t-butyldimethylsilyl ether (9.0 g, 40 mmol) in tetrahydrofuran (35 mL) was added dropwise, and the temperature allowed to rise to -15° C. The solution was recooled to -78° C. and to it was added a solution of 3-anisaldehyde (5.5 g, 4.9 mL, 40 mmol) in tetrahydrofuran (35 mL) dropwise. The solution was allowed to warm to -20° C. and poured into saturated aqueous sodium hydrogen carbonate (300 mL). The aqueous layer was extracted with ethyl acetate (3×200 mL) and the organic layers were combined, dried over anhydrous magnesium sulfate, filtered and concentrated at reduced pressure. The resulting oil was dissolved in tetrahydrofuran (120 mL) and to this solution was added tetrabutylammonium fluoride (48 mL of a 1.0M solution in tetrahydrofuran) dropwise. After ten minutes, the reaction mixture was concentrated at reduced pressure and the resulting oil was chromatographed on silica gel eluting with 97:3 ethyl acetate:methanol to give a mixture of diastereomeric diols as a foam (8.5 g) which was used without further purification.

reactant | diisopropylamine | 44 mmol, 5.8 mL, 4.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-pyridylcarbinol t-butyldimethylsilyl ether | 40 mmol, 9.0 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=NC=C1 | C12H21NOSi
reactant | 3-anisaldehyde | 40 mmol, 4.9 mL, 5.5 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | sodium hydrogen carbonate | 300 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 1-(3-Methoxyphenyl)-2-pyridin-4-ylethane-1,2-diol | COC=1C=C(C=CC1)C(C(O)C1=CC=NC=C1)O | C14H15NO3
